US07300932B2
3-(4-Trifluoromethyl-phenyl)-furan-2,5-dione. A mixture of 4-(trifluoromethyl)phenylacetonitrile (9.26 g, 50 mmol), glyoxylic acid monohydrate (6.9 g, 75 mmol), and potassium carbonate (17 g, 125 mmol) in methanol (100 mL) was stirred at room temperature for 3-5 h. The resulting thick solid precipitate was filtered and washed with dichloromethane. This solid was suspended in 250 mL of water, stirred overnight, and filtered and air-dried to provide 3-cyano-3-(4-trifluoromethyl-phenyl)-acrylic acid potassium salt. This was dissolved in 88% formic acid (ca. 200 mL) containing concentrated sulfuric acid (15 mL). This mixture was heated at reflux for 2-3 h and cooled and poured into ice water. The resulting precipitate was collected by filtration, washed with water, and air dried to provide the title compound. 1H NMR (DMSO-d6) δ 7.94 (s, 1H), 7.97 (d, J=8.2 Hz, 2H), 8.24 (d, J=8.2 Hz, 2H).

reactant | 3-(4-Trifluoromethyl-phenyl)-furan-2,5-dione | FC(C1=CC=C(C=C1)C=1C(OC(C1)=O)=O)(F)F | C11H5F3O3
reactant | 4-(trifluoromethyl)phenylacetonitrile | 50 mmol, 9.26 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | glyoxylic acid monohydrate | 75 mmol, 6.9 g | O.C(C=O)(=O)O
reactant | potassium carbonate | 125 mmol, 17 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 3-cyano-3-(4-trifluoromethyl-phenyl)-acrylic acid potassium salt | [K+].C(#N)C(=CC(=O)[O-])C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C11H6F3NO2.K/c12-11(13,14)9-3-1-7(2-4-9)8(6-15)5-10(16)17;/h1-5H,(H,16,17);/q;+1/p-1
